US07405228B2
Preparation of 4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluoronitrobenzene
The mixture of 4-(3-fluoro-4-oxo-piperidin-1-yl)-3-fluoronitrobenzene (65 mmol), trimethylorthoformate (130 mmol), p-toluene-sulphonic acid monohydrate (67 mmol) in methanol was heated at 45° C. for 24 hours. Solvent was removed and residual mass was taken into ethyl acetate and saturated sodium bicarbonate solution mixture. The organic layer was dried and removal of the solvent afforded title compound as a solid in 78% yield.

reactant | 4-(3-fluoro-4-oxo-piperidin-1-yl)-3-fluoronitrobenzene | 65 mmol | FC1CN(CCC1=O)C1=C(C=C(C=C1)[N+](=O)[O-])F | C11H10F2N2O3
reactant | trimethylorthoformate | 130 mmol | COC(OC)OC | C4H10O3
reactant | p-toluene-sulphonic acid monohydrate | 67 mmol | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | CO | CH4O
product | 4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluoronitrobenzene | 78% yield | COC1(C(CN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])F)F)OC | C13H16F2N2O4
